US05110956
2-(6-Benzyl-1,3-benzodioxol-5-yl)ethanol
A solution of 1.82 g of (6-benzyl-1,3-benzodioxol-5-yl)acetic acid in 22 ml of anhydrous tetrahydrofuran was dropwise added at 0° C. to a suspension of 0.38 g of lithium aluminum hydride in anhydrous tetrahydrofuran. The obtained mixture was warmed to a room temperature to carry out the reaction for 4 hours, followed by the addition of water. The mixture was filtered to remove the precipitate. The filtrate was concentrated in a vacuum to obtain a yellow oil residue. This residue was purified by silica gel column chromatography (ethyl acetate/hexane=2:8) to obtain 1.42 g of the title compound as a colorless crystal.

reactant | (6-benzyl-1,3-benzodioxol-5-yl)acetic acid | 1.82 g | C(C1=CC=CC=C1)C=1C(=CC2=C(OCO2)C1)CC(=O)O | C16H14O4
reactant | lithium aluminum hydride | 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | 2-(6-Benzyl-1,3-benzodioxol-5-yl)ethanol | 1.42 g | C(C1=CC=CC=C1)C=1C(=CC2=C(OCO2)C1)CCO | C16H16O3
